US05196611
Preparation of 2-(4-methoxyphenyl)ethyl chloride
11 g (0.11 mole) of phosgene were added to 4.4 g (0.02 mole) of tri-n-butylphosphine oxide during the course of 15 minutes at a temperature of 80° C. The temperature was then held at 90°-100° C. while 108 g (1.09 moles) of phosgene and 152 g (1.00 mole) of 2-(4-methoxyphenyl)ethanol were added over 1 hour. To complete the reaction, the mixture was kept at this temperature for another hour.

reactant | phosgene | 0.11 mole, 11 g | C(=O)(Cl)Cl | CCl2O
reactant | tri-n-butylphosphine oxide | 0.02 mole, 4.4 g | C(CCC)P(CCCC)(CCCC)=O | C12H27OP
reactant | phosgene | 1.09 moles, 108 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-(4-methoxyphenyl)ethanol | 1.00 mole, 152 g | COC1=CC=C(C=C1)CCO | C9H12O2
product | 2-(4-methoxyphenyl)ethyl chloride | COC1=CC=C(C=C1)CCCl | C9H11ClO
